US04156016
A solution of 8.50 g. (0.026 mol) of 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]indole-2-carboxamide in 100 ml. of chloroform and 100 ml. of an ether-chloroform solution of polyphosphate ester was heated under reflux for 45 minutes and concentrated under vacuum. The residue was mixed with ether and water and made basic with sodium bicarbonate. The ether layer was then dried and concentrated, and the residue was mixed with dichloromethane. Filtration removed a little starting material and concentration gave several crops of crude 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]indole-2-carbonitrile. The mother liquors were absorbed on silica gel from benzene solution. Elution with 0-10% ether in dichloromethane gave further 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]indole-2-carbonitrile. Recrystallization of the combined material from dichloromethane gave 5.60 g. (70%) of 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]indole-2-carbonitrile as colorless crystals, m.p. 183°-185°. The analytical sample had m.p. 181°-184°.

reactant | 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]indole-2-carboxamide | 0.026 mol | FC(C(C(F)(F)F)(O)C=1C=C2C=C(NC2=CC1)C(=O)N)(F)F | C12H8F6N2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]indole-2-carbonitrile | FC(C(C(F)(F)F)(O)C=1C=C2C=C(NC2=CC1)C#N)(F)F | C12H6F6N2O
